US04772600
N-[3-[[(4-Chloro-2-pyridinyl)carbonyl]amino]-2-pyridinyl]glycine ethyl ester
The crude 4-chloro picolinoyl chloride and triethylamine (5.55 g, 0.055 mole) were added dropwise simulaneously to the above stirred filtrate of N-(3-amino-2-pyridinyl)glycine ethyl ester at room temperature and allowed to stir overnight.

reactant | 4-chloro picolinoyl chloride | ClC1=CC(=NC=C1)C(=O)Cl | C6H3Cl2NO
reactant | triethylamine | 0.055 mole, 5.55 g | C(C)N(CC)CC | C6H15N
reactant | N-(3-amino-2-pyridinyl)glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1N)=O | C9H13N3O2
product | N-[3-[[(4-Chloro-2-pyridinyl)carbonyl]amino]-2-pyridinyl]glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1NC(=O)C1=NC=CC(=C1)Cl)=O | C15H15ClN4O3
